US08466167B2
Step 1: 5-bromo-2-chloro-4-methylpyridine 1-oxide
A solution of 5-bromo-2-chloro-4-methylpyridine (1.0 eq.) and meta-chloroperbenzoic acid (mCPBA) (2.5 eq.) in chloroform (0.1 M) was stirred at 50° C. overnight. After cooling to room temperature, Ca(OH)2 (2.5 eq.) was added to the reaction mixture. The precipitate was filtered and washed with 5% methanol in dichloromethane and ethyl acetate. The filtrate was washed with saturated aqueous Na2S2O3 solution and saturated aqueous NaHCO3 solution. The combined organic layers were washed with brine, dried over anhydrous MgSO4, and concentrated en vacuo into a pale solid that was carried onto the next step without further purification.

reactant | 5-bromo-2-chloro-4-methylpyridine | 1.0 eq. | BrC=1C(=CC(=NC1)Cl)C | C6H5BrClN
reactant | meta-chloroperbenzoic acid | 2.5 eq. | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 0.1 M | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-2-chloro-4-methylpyridine 1-oxide | BrC=1C(=CC(=[N+](C1)[O-])Cl)C | C6H5BrClNO
